Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Shellfish Derived / Niacin
 
Attending: ___.
 
Chief Complaint:
Dry gangrene of right ___ and ___ toes
 
Major Surgical or Invasive Procedure:
___ Right common femoral artery and profunda femoral 
Endarterectomy with bovine patch angioplasty
___ Right lower extremity angiography

 
History of Present Illness:
Mr. ___ is a ___ year old male with a history of atrial 
fibrillation (not on anticoagulation), CAD s/p CABG x3, aortic 
stenosis s/p aortic valve replacement, and mitral regurgitation 
who was admitted to the vascular surgery service on ___ for 
gangrene of his right first and second toes. He underwent a 
right lower extremity angiogram that showed a long segment right 
femoral occlusion and an occluded ___ with peroneal run off to 
the foot. He also had a patent iliac segment but stenosis in the 
common iliac could not be ruled out. The profunda origin also 
had a severe stenosis. Thus, it
was planned that he would benefit from a femoral endarterectomy 
and potential recanalization of the femoral-popliteal segment 
versus bypass. He subsequently underwent vein mapping which 
showed no suitable conduit. 

He now presents for scheduled femoral endarterectomy with 
possible iliac stenting and hopeful femoral-popliteal 
recanalization potentially with retrograde peroneal access.
 
Past Medical History:
Hypertension
CAD s/p CABG x 3
Diabetes mellitus type ___
Mitral Regurgitation
Aortic stenosis s/p AVR
Hyperlipidemia 

 
Social History:
___
Family History:
father deceased ___ myocardial infarction
mother deceased ___ myocardial infarction 
diabetes
 
Physical Exam:
Vital Signs: Temp 97.4 HR 77 BP 125/56 RR 18 95% 2L
Neuro/Psych: Oriented x3, Affect Normal, NAD.  
Heart: Regular rate and rhythm. 
Lungs: Clear, Normal respiratory effort.  
Extremities: Right ___ and ___ toe dry gangrene, right foot 
otherwise non-erythematous, no edema
Pulse Exam (P=Palpation, D=Dopplerable, N=None)
RLE Femoral: P. Popliteal: D. DP: D. ___: D.  
LLE Femoral: D. Popliteal: -. DP: D. ___: D. 
 
Pertinent Results:
ADMISSION LABS:

___ 09:54PM BLOOD WBC-7.8 RBC-3.25* Hgb-9.5* Hct-31.3* 
MCV-96 MCH-29.2 MCHC-30.4* RDW-14.8 RDWSD-52.0* Plt ___
___ 09:54PM BLOOD Glucose-286* UreaN-40* Creat-1.6* Na-144 
K-4.6 Cl-97 HCO3-33* AnGap-14
___ 09:54PM BLOOD Calcium-8.7 Phos-3.6 Mg-2.3

DISCHARGE LABS:
COMPLETE BLOOD COUNT WBC RBC Hgb Hct MCV MCH MCHC RDW RDWSD Plt 
Ct 
___ 06:15    7.3 2.82* 8.4* 27.9* 99* 29.8 30.1* 14.9 
53.8* 179 
BASIC COAGULATION ___, PTT, PLT, INR) ___ PTT Plt Ct ___ 
___ 06:15        179   
RENAL & GLUCOSE Glucose UreaN Creat Na K Cl HCO3 AnGap 
___ 06:15    137*1 30* 1.2 147* 5.1 102 29 162 

Imaging:
___: Right Lower Extremity Angiography: Occlusion of R SFA 
at origin, reconstitution at popliteal, single vessel peroneal 
runoff partially reconstituting the posterial tibial at the 
level of the medial malleolus

 
Brief Hospital Course:
Mr. ___ is a ___ year old male with a history of atrial 
fibrillation, CAD s/p CABG x3, aortic stenosis s/p aortic valve 
replacement, and mitral regurgitation who presented to the 
vascular surgery service at ___ 
in ___ with gangrene of his right first and second toes. He 
returned for a scheduled admission on ___. The patient was 
taken to the operating room and underwent endarterectomy of his 
right common and profunda femoral arteries with bovine patch 
angioplasty. For details of the procedure, please see the 
surgeon's operative note. Of note, the case was technically 
challenging with significant blood loss, requiring transfusion 
of 1u pRBCs intraoperatively. A JP drain was placed in the 
patient's right groin given the extent of intraoperative 
bleeding. The patient tolerated the procedure well without 
complications and was brought to the post-anesthesia care unit 
in stable condition. He subsequently had a short run of 
hemodynamically unstable SVT with systolic blood pressures in 
the ___, which resolved spontaneously without intervention. 
After a brief stay, the patient was transferred to the vascular 
surgery floor where he remained through the rest of the 
hospitalization. 

Post-operatively, he did well without any groin swelling or 
bleeding. His hematocrit stabilized, and he remained 
hemodynamically stable without further episodes of arrhythmia. 
On POD1, he was able to get out of bed to a chair and was 
tolerating a regular diet. On POD2, he was able get out of bed 
and ambulate with a cane (which he uses at home), void without 
issues, and pain was controlled on oral medications alone. He 
was deemed ready for discharge on POD3, however it was decided 
to pursue non-invasive studies to determine what the next step 
in his progress would be and whether we should pursue a below 
knee amputation vs a transmetatarsal amputation. Non invasive 
studies revealed that there would be minimal likelihood of 
healing a transmetatarsal amputation, and it was decided to see 
what his residual flow was in his leg via angiogram and if he 
would be amenable to alternative forms of treatment other than 
amputation. Subsequent angiograms showed that he had complete 
occlusion of the superficial femoral artery at its origin with 
single vessel runoff in the peroneal artery. Based on these 
results it was determined that he would be very unlikely to heal 
a transmetatarsal amputation and if he wanted to avoid any 
possible future complications with the gangrene of his toes we 
would recommend a below knee amputation. He was unwilling to 
pursue this course at this time and wanted time to think about 
it before deciding. At the time of discharge his vitals were 
stable. He was eating walking and voiding spontaneously without 
complications. The discharge plan was discussed with the patient 
who verbalized understanding and agreement with the plan.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Finasteride 5 mg PO DAILY 
2. Amoxicillin-Clavulanic Acid ___ mg PO Q12H 
3. Fish Oil (Omega 3) 1000 mg PO BID 
4. Metoprolol Succinate XL 100 mg PO DAILY 
5. Docusate Sodium 100 mg PO BID 
6. Simvastatin 40 mg PO QPM 
7. Ferrous Sulfate 325 mg PO DAILY 
8. Multivitamins 1 TAB PO DAILY 
9. Furosemide 40 mg PO DAILY 
10. Aspirin 81 mg PO DAILY 
11. GlipiZIDE 5 mg PO BID 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H 
RX *acetaminophen 650 mg 1 tablet(s) by mouth every six (6) 
hours Disp #*20 Tablet Refills:*0 
2.  Aspirin 81 mg PO DAILY  
3.  Docusate Sodium 100 mg PO BID  
4.  Ferrous Sulfate 325 mg PO DAILY  
5.  Finasteride 5 mg PO DAILY  
6.  Fish Oil (Omega 3) 1000 mg PO BID  
7.  Furosemide 40 mg PO DAILY  
8.  GlipiZIDE 5 mg PO BID  
9.  Metoprolol Succinate XL 100 mg PO DAILY  
10.  Multivitamins 1 TAB PO DAILY  
11.  Simvastatin 40 mg PO QPM  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Peripheral vascular disease
Toe gangrene

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ and 
underwent a right common femoral and profunda artery 
Endarterectomy with bovine patch angioplasty. You have now 
recovered from surgery and are ready to be discharged. Please 
follow the instructions below to continue your recovery:

WHAT TO EXPECT:
1. It is normal to feel tired, this will last for ___ weeks 
 You should get up out of bed every day and gradually increase 
your activity each day 
 Unless you were told not to bear any weight on operative foot: 
you may walk and you may go up and down stairs 
 Increase your activities as you can tolerate- do not do too 
much right away!
2. It is normal to have swelling of the leg you were operated 
on:
 Elevate your leg above the level of your heart (use ___ 
pillows or a recliner) every ___ hours throughout the day and at 
night
 Avoid prolonged periods of standing or sitting without your 
legs elevated
3. It is normal to have a decreased appetite, your appetite will 
return with time 
 You will probably lose your taste for food and lose some 
weight 
 Eat small frequent meals
 It is important to eat nutritious food options (high fiber, 
lean meats, vegetables/fruits, low fat, low cholesterol) to 
maintain your strength and assist in wound healing
 To avoid constipation: eat a high fiber diet and use stool 
softener while taking pain medication

MEDICATION:
 Take aspirin and Plavix as instructed 
 Follow your discharge medication instructions

ACTIVITIES:
 No driving until post-op visit and you are no longer taking 
pain medications
 Unless you were told not to bear any weight on operative foot: 

 You should get up every day, get dressed and walk
 You should gradually increase your activity
 You may up and down stairs, go outside and/or ride in a car
 Increase your activities as you can tolerate- do not do too 
much right away!
 No heavy lifting, pushing or pulling (greater than 5 pounds) 
until your post op visit 
 You may shower (unless you have stitches or foot incisions) no 
direct spray on incision, let the soapy water run over incision, 
rinse and pat dry
 Your incision may be left uncovered, unless you have small 
amounts of drainage from the wound, then place a dry dressing 
over the area that is draining, as needed

CALL THE OFFICE FOR: ___
 Redness that extends away from your incision
 A sudden increase in pain that is not controlled with pain 
medication
 A sudden change in the ability to move or use your leg or the 
ability to feel your leg
 Temperature greater than 100.5F for 24 hours
 Bleeding, new or increased drainage from incision or white, 
yellow or green drainage from incisions
 

Thank you for allowing us to participate in your care!

Sincerely, 
Your ___ Team
 
Followup Instructions:
___